US07994200B2
To a stirred solution of 2,4-dichloroaniline (1 g, 6.17 mmol) and concentrated hydrochloric acid (1.5 ml) in ice (1.5 ml) a solution of NaNO2 (0.460 mg, 6.68 mmol) in water (0.8 ml) is slowly added and the mixture is stirred for 1 h at 0-5° C. Then, this solution is added over a cold mixture of NaOAc (1.64 g, 19.6 mmol), ethanol (26 ml) and ethyl-2-chloro-3-oxobutanoate (1.0 g, 6.06 mmol) and let stirring for 1 hour until the formed precipitate is collected by filtration, washed with ethanol and dichloromethane and dried in vacuo to give the yellow solid ethyl 2-chloro-2-(2-(2,4-dichlorophenyl)hydrazono)acetate (70-80% yield), which is used in the next step without any further purification.

reactant | 2,4-dichloroaniline | 6.17 mmol, 1 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | NaNO2 | 6.68 mmol, 0.460 mg | N(=O)[O-].[Na+]
reactant | NaOAc | 19.6 mmol, 1.64 g | CC(=O)[O-].[Na+]
reactant | ethyl-2-chloro-3-oxobutanoate | 6.06 mmol, 1.0 g | C(C)OC(C(C(C)=O)Cl)=O | C6H9ClO3
solvent | water | 0.8 ml | O | H2O
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | ethyl 2-chloro-2-(2-(2,4-dichlorophenyl)hydrazono)acetate | 70-80% yield | ClC(C(=O)OCC)=NNC1=C(C=C(C=C1)Cl)Cl | C10H9Cl3N2O2
